US04237138
N-Acetyl-4-hydroxypiperidine (13.6 g.) in dimethylformamide (50 ml.) was added dropwise to a stirred suspension of sodium hydride (10 g. 50% dispersion in mineral oil) in dimethylformamide (50 ml.) under nitrogen. The mixture was stirred at room temperature for 3 hours then α-(bromomethyl)styrene (20 g.) in dimethylformamide (50 ml.) was added dropwise. The mixture was stirred at room temperature for 4 hours, then diluted with water and extracted with chloroform (3×200 ml.). The combined chloroform extracts were dried (Na2SO4), evaporated in vacuo, and distilled to give N-acetyl-4-(2-phenylallyloxy)piperidine (25 g.), b.p. 170°-180° C./0.3 mm. with an n.m.r. spectrum in accordance with this structure.

reactant | N-Acetyl-4-hydroxypiperidine | 13.6 g | C(C)(=O)N1CCC(CC1)O | C7H13NO2
reactant | sodium hydride | 10 g | [H-].[Na+]
reactant | α-(bromomethyl)styrene | 20 g | BrCC(=C)C1=CC=CC=C1 | C9H9Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-acetyl-4-(2-phenylallyloxy)piperidine | 25 g | C(C)(=O)N1CCC(CC1)OCC(=C)C1=CC=CC=C1 | C16H21NO2
